2121-03-01 10:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: altered mental status, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2121-3-1**] 01:21 AM
   -weaned down to 2L NC
   -mental status waxing & [**Doctor Last Name 42**]
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, waxing & [**Doctor Last Name 42**]
   mental status
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2121-3-1**] 12:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-3-1**] 02:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-1**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 95 (88 - 124) bpm
   BP: 113/64(76) {88/26(49) - 113/74(82)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,009 mL
                                                                    401 mL
   PO:
             TF:
   IVF:
                                                                      9 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                    605 mL
   Urine:
                                                                     50 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    959 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 7 cmH2O
   FiO2: 30%
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: 7.39/40/189/28/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 630
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   303 K/uL
   113 mg/dL
   1.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   109 mEq/L
   145 mEq/L
   29.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2121-3-1**]  02:04 AM
                             [**2121-3-1**]  02:42 AM
   WBC
   4.2
   Hct
   29.2
   Plt
   303
   Cr
   1.7
   TCO2
   25
   Glucose
   113
   Other labs: PT / PTT / INR:16.5/28.4/1.5, CK / CKMB / Troponin-T:93//,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPOXEMIA
   -significantly improved this morning
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -waxing & [**Doctor Last Name 42**]
   -essentially at baseline per staff familiar with patient
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   -no significant failure on cxr, exam
   -bnp below previous admissions
 ? infiltrate - not present on repeat cxr
   -wbc nl, fever reported in ED but afebrile in ICU Tm 99.6 rectally
   -doubt infectious etiology since only data c/w is single questionable
   read in ED
   -consider pulling back abx today if cont to do well and cx data, other
   data remains unconvincing for infection.
   -FSG/SSRI
Afib
   -rate controlled
   -INR low, adjusting dosing
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-2-28**] 11:10 PM
   20 Gauge - [**2121-2-28**] 11:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-03-02 10:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: altered mental status, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -cont waxing and [**Doctor Last Name 42**] mental status
   -this morning very alert, much more interactive
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2121-3-1**] 12:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-3-2**] 07:42 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-3-1**] 11:18 AM
   Heparin Sodium (Prophylaxis) - [**2121-3-2**] 04:34 AM
   Dilantin - [**2121-3-2**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-2**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.6
   HR: 70 (70 - 100) bpm
   BP: 94/61(68) {92/53(63) - 120/86(94)} mmHg
   RR: 22 (12 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    640 mL
                                                                    847 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    607 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    645 mL
   Urine:
                                                                  1,645 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,005 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/50/138/26/4
   PaO2 / FiO2: 460
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   288 K/uL
   79 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   113 mEq/L
   149 mEq/L
   27.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-3-1**]  02:04 AM
                             [**2121-3-1**]  02:42 AM
                             [**2121-3-1**]  11:29 AM
                             [**2121-3-2**]  03:42 AM
   WBC
   4.2
   4.9
   Hct
   29.2
   27.3
   Plt
   303
   288
   Cr
   1.7
   1.4
   TCO2
   25
   31
   Glucose
   113
   79
   Other labs: PT / PTT / INR:14.5/28.6/1.3, CK / CKMB / Troponin-T:93//,
   Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPOXEMIA
   -significantly improved

 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -waxing & [**Doctor Last Name 42**]
   -essentially at baseline per staff familiar with patient
   -at time of rounds quite alert
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   -no significant failure on cxr, exam
   -bnp below previous admissions
 ? infiltrate
   - no clear infiltrate present on repeat cxr
   -wbc nl, fever reported in ED but afebrile in ICU
   -unclear if has pneumonia given lack of corroborating evidence
   -consider pulling back abx  if cont to do well and cx data, other data
   remains unconvincing for infection.
   -FSG/SSRI
Hypernatremia
   -free water repletion carefully given h/o CHF
Afib
   -rate controlled
   -INR low, adjusting dosing
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-28**] 11:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-03-03 11:48:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo women presented with altered MS [**First Name (Titles) **] [**Last Name (Titles) **] - was admitted to
   [**Hospital Ward Name **].  Found to have pulmonary edema.  Went to floor and returned to
   MICU [**Location (un) 184**] with similar symptoms.  has improved and was to go to
   floor, but developed [**Last Name (LF) 2245**], [**First Name3 (LF) **] stayed in MICU.   [**First Name3 (LF) 2245**] has now resolved.
   24 Hour Events:
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-3-3**] 09:28 AM
   Vancomycin - [**2121-3-3**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-3-2**] 12:00 PM
   Other medications:
   atrovent
   famotidine
   SSI
   singulaire
   asa
   lopressor 37.5
   lipitor
   coumadin
   dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2121-3-3**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 95 (66 - 126) bpm
   BP: 99/81(86) {74/44(51) - 111/94(98)} mmHg
   RR: 28 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,230 mL
                                                                    640 mL
   PO:
                                                                  1,860 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,370 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    660 mL
   Urine:
                                                                  1,115 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,115 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   335 K/uL
   110 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   34 mg/dL
   105 mEq/L
   140 mEq/L
   26.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2121-3-1**]  02:04 AM
                             [**2121-3-1**]  02:42 AM
                             [**2121-3-1**]  11:29 AM
                             [**2121-3-2**]  03:42 AM
                             [**2121-3-2**]  02:23 PM
                             [**2121-3-3**]  02:34 AM
   WBC
   4.2
   4.9
   5.5
   Hct
   29.2
   27.3
   26.4
   Plt
   [**Telephone/Fax (3) 12125**]
   Cr
   1.7
   1.4
   1.4
   1.4
   TCO2
   25
   31
   Glucose
   113
   79
   149
   110
   Other labs: PT / PTT / INR:14.3/29.6/1.2, CK / CKMB / Troponin-T:93//,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Fevers:  being treated for PNA with vanco and zosyn.
   acute on chronic diastolic HF:  seems euvolemic currently.    Continue
   home lasix.  Does not seem to have pulmonary edema currently.
   hypoxemia:  on 3L oxygen.  Wean as tolerated.  [**Month (only) 60**] be due to PNA and
   less due to CHF.
   AFib:  better controlled on lopressor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-3-3**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes